US04582775
3-Mercapto-5-methyl-4-phenyl-1,2,4-triazole (19.1 g) was suspended in 200 ml of methanol, and 20 g of 28% sodium methylate was added thereto. After 10 minutes, 15 g of methyl iodide was added dropwise. They were reacted for 2 hours and then the methanol was distilled away. Upon extraction of the residue with ethyl acetate, 5-methyl-3-methylthio-4-phenyl-1,2,4-triazole was obtained.

reactant | 3-Mercapto-5-methyl-4-phenyl-1,2,4-triazole | 19.1 g | SC1=NN=C(N1C1=CC=CC=C1)C | C9H9N3S
reactant | sodium methylate | 20 g | C[O-].[Na+]
reactant | methyl iodide | 15 g | CI | CH3I
solvent | methanol | 200 ml | CO | CH4O
product | 5-methyl-3-methylthio-4-phenyl-1,2,4-triazole | CC=1N(C(=NN1)SC)C1=CC=CC=C1 | C10H11N3S
